US09108934B2
(2R,4R)-4-{[1-((S)-2-Amino-3-methylbutyryloxymethoxy)-1H-[1,2,3]triazole-4-carbonyl]-amino}-5-(5′-chloro-2′-fluorobiphenyl-4-yl)-2-hydroxypentanoic Acid
(S)-2-t-Butoxycarbonylamino-3-methylbutyric acid chloromethyl ester (44.4 mg, 167 μmol) was added to a solution of (2R,4R)-5-(5′-chloro-2′-fluorobiphenyl-4-yl)-2-hydroxy-4-[(1-hydroxy-1H-1,2,3-triazole-4-carbonyl)amino]pentanoic acid (30.0 mg, 66.8 mol) in acetone (0.5 mL, 6.8 mmol). Et3N (18.6 μL, 134 μmol) was added and the resulting mixture was stirred at 65° C. for 2 hours. 1:1 TFA/DCM (1.0 mL, 6.2 mmol) was added and the mixture was stirred at room temperature for 30 minutes, and then concentrated in vacuo to yield a yellow liquid. The crude liquid was purified (preparative scale C18 column chromatography, small column, using 30-90% MeCN in water with 0.05% TFA) to yield the title compound as a white solid (10 mg). MS m/z [M+H]+ calc'd for C26H29ClFN5O7, 578.17. found 578.1.

reactant | (S)-2-t-Butoxycarbonylamino-3-methylbutyric acid chloromethyl ester | 167 μmol, 44.4 mg | ClCOC([C@H](C(C)C)NC(=O)OC(C)(C)C)=O | C11H20ClNO4
reactant | (2R,4R)-5-(5′-chloro-2′-fluorobiphenyl-4-yl)-2-hydroxy-4-[(1-hydroxy-1H-1,2,3-triazole-4-carbonyl)amino]pentanoic acid | 66.8 mol, 30.0 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)C[C@H](C[C@H](C(=O)O)O)NC(=O)C=1N=NN(C1)O)F | C20H18ClFN4O5
reactant | acetone | 6.8 mmol, 0.5 mL | CC(=O)C | C3H6O
reactant | Et3N | 134 μmol, 18.6 μL | CCN(CC)CC | C6H15N
reactant | TFA DCM | 6.2 mmol, 1.0 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (2R,4R)-4-{[1-((S)-2-Amino-3-methylbutyryloxymethoxy)-1H-[1,2,3]triazole-4-carbonyl]-amino}-5-(5′-chloro-2′-fluorobiphenyl-4-yl)-2-hydroxypentanoic Acid | 10 mg | N[C@H](C(=O)OCON1N=NC(=C1)C(=O)N[C@@H](C[C@H](C(=O)O)O)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)C(C)C | C26H29ClFN5O7
